US07157487B2
In ethanol (250 ml) was dissolved (2-nitrophenyl)acetic acid (18.5 g, 0.102 mmol), and to the resulting solution was added concentrated H2SO4 (0.1 ml). The mixture was heated under reflux for 24 hours. The reaction mixture was cooled to room temperature and then, diluted with ethyl acetate. The diluted solution was washed with a saturated aqueous solution of sodium bicarbonate and saturated brine, dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent, whereby ethyl (2-nitrophenyl)acetate (17.4 g, 82%) was obtained as a colorless solid.

reactant | (2-nitrophenyl)acetic acid | 0.102 mmol, 18.5 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | H2SO4 | 0.1 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl (2-nitrophenyl)acetate | 17.4 g, 82% | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)OCC | C10H11NO4
